US08124610B2
4-Amino-2-fluoro-N-thiazol-2-yl-benzenesulfonamide
Trifluoroacetic acid (8 mL, 0.1 mol) was added to the mixture of the [A] 4-(2,4-dimethoxy-benzylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (2.59 g, 0.00612 mol) in methylene chloride (33 mL). The reaction mixture was stirred for one hour (turned into a purple solution) then concentrated to give the crude product, which was purified using Gilson preparative HPLC (reverse phase, Phenomenex 250×30 mm, 15 micron C18 column, 40 mL/min. Gradient, 85% A to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8) to give the product as a yellow solid (0.92 g, 55%).

reactant | Trifluoroacetic acid | 0.1 mol, 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(2,4-dimethoxy-benzylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.00612 mol, 2.59 g | COC1=C(CNC2=CC(=C(C=C2)S(=O)(=O)NC=2SC=CN2)F)C=CC(=C1)OC | C18H18FN3O4S2
solvent | methylene chloride | 33 mL | C(Cl)Cl | CH2Cl2
product | 4-Amino-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.92 g, 55% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H8FN3O2S2
